US05075304
N-ethoxalyl-N-ethyl-2-nitro-6-methylaniline (oil) was prepared from N-ethoxalyl-2-nitro-6-methylaniline and ethyl iodide.

reactant | N-ethoxalyl-2-nitro-6-methylaniline | C(=O)(C(=O)OCC)NC1=C(C=CC=C1C)[N+](=O)[O-] | C11H12N2O5
reactant | ethyl iodide | C(C)I | C2H5I
product | N-ethoxalyl-N-ethyl-2-nitro-6-methylaniline | C(=O)(C(=O)OCC)N(C1=C(C=CC=C1C)[N+](=O)[O-])CC | C13H16N2O5
